US04665174
Into a four-necked flask equipped with a stirrer and a thermometer, a 30% aqueous solution of monoethylamine (70 g) and tetrahydrofuran (18 g) were charged, and then 2-n-pentyl-3-hydroxy-3-methyl-4-cyclopentenone (18.2 g) was dropwise added thereto at a temperature of 10° to 20° C. for 30 minutes. At the same temperature, the reaction mixture was kept for 2 hours. After completion of the reaction, the mixture was extracted with toluene, and the organic layer was washed with water. From the organic layer, toluene was evaporated off to give 2-n-pentyl-3-methyl-4-ethylamino-2-cyclopentenone (20.3 g). Yeild, 97%. The product was purified by alumina chromatography using toluene-ethyl acetate (10:1 by volume). nD20 1.4864.

reactant | monoethylamine | 70 g | C(C)N | C2H7N
reactant | 2-n-pentyl-3-hydroxy-3-methyl-4-cyclopentenone | 18.2 g | C(CCCC)C1C(C=CC1(C)O)=O | C11H18O2
solvent | tetrahydrofuran | 18 g | O1CCCC1 | C4H8O
product | 2-n-pentyl-3-methyl-4-ethylamino-2-cyclopentenone | 20.3 g | C(CCCC)C=1C(CC(C1C)NCC)=O | C13H23NO
